US04748165
A solution 5-(4-amino-1,2,3-triazol-2-yl)valeronitrile hydrochloride (2.01 g.) in EtOH (15 ml.) was treated with cyanamide (0.42 g.) and the solution heated under reflux for 4.5 hours. A further 0.1 g. of cyanamide was added and heating under reflux was continued for 2 hours. The solution was evaporated and the residue basified with ammonia and continuously extracted for 24 hours with EtOAc to give a yellow oil which was purified by medium pressure chromatography using chloroform/MeOH/aqueous ammonia (s.g. 0.880) 8:2:0.1 v/v/v as eluant to give 5-(4-guanidino-1,2,3-triazol-2-yl)valeronitrile as a colourless oil (0.45 g.).

reactant | 5-(4-amino-1,2,3-triazol-2-yl)valeronitrile hydrochloride | 2.01 g | Cl.NC1=NN(N=C1)CCCCC#N
reactant | cyanamide | 0.42 g | N#CN | CH2N2
solvent | EtOH | 15 ml | CCO | C2H6O
product | 5-(4-guanidino-1,2,3-triazol-2-yl)valeronitrile | N(C(=N)N)C1=NN(N=C1)CCCCC#N | C8H13N7
